### PR TITLE
feat(MultitapeTM): Prove an exponential upper bound in the number of configurations reachable in bounded space

### PR DESCRIPTION
**Pull request by crei**
Proves an upper bound on the number of configurations reachable in bounded space on a multi-tape TM.

The proof introduces the concept of `Storage`, the projection of `Cfg` that only contain the state and the work tapes. It shows that if the TM uses at most `s` space, there is an injection to a structure that only uses `[-s, s]` to index the tape.

### CODE REVIEW

**Review by SamuelSchlesinger — APPROVED** [review]

**Comment by crei** [comment]
https://github.com/leanprover/cslib/pull/819 should be merged first, I'll update this one in a minute.

**Comment by crei** [comment]
This is now updated to the new definition of `Cfg`. I kept most of it so that it also applies to nondeterministic machines, so once that is merged, it should be easy to adapt.

File: Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean [hunk 1]
```diff
@@ -0,0 +1,382 @@
...
+  cell_le : ∀ j z, x.workTapes j z ≠ none → z.natAbs ≤ w j
+
+/-- If an `UnboundedStorage` fits in a smaller window, it also fits in the larger window. -/
+lemma Storage.FitsIn_mono {x : UnboundedStorage Symbol State k} : Monotone x.FitsIn := by
+  intro w₁ w₂ h_le h_fits
+  refine ⟨?_, ?_⟩
+  · intro j
+    grind [h_fits.pos_le j, h_le j]
+  · intro j z h_ne
+    grind [h_fits.cell_le j z h_ne, h_le j]
```
Comment (barni120400) [inline Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean]:
```suggestion
lemma Storage.FitsIn_mono {x : UnboundedStorage Symbol State k} : Monotone x.FitsIn :=
  fun _ _ hle h => ⟨fun j => (h.pos_le j).trans (hle j),
    fun j z hz => (h.cell_le j z hz).trans (hle j)⟩
```

File: Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean [hunk 2]
```diff
@@ -0,0 +1,382 @@
...
+lemma Storage.toBounded_injOn (w : Fin k → ℕ) :
+    Set.InjOn (Storage.toBounded (Symbol := Symbol) (State := State) · w) {x | x.FitsIn w} := by
+  rintro x ⟨hxp, hxc⟩ y ⟨hyp, hyc⟩ hxy
+  simp only [Storage.toBounded, Storage.mk.injEq] at hxy
+  obtain ⟨hstate, htapes, hpos⟩ := hxy
+  refine Storage.ext hstate (funext₂ fun j z => ?_) (funext fun j => ?_)
+  · by_cases hz : z ∈ window (w j)
+    · exact congrFun (congrFun htapes j) ⟨z, hz⟩
+    · grind
+  · grind [congrFun hpos j]
```
Comment (barni120400) [inline Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean]:
```suggestion
  rintro x hx y hy hxy
  simp only [Storage.toBounded, Storage.mk.injEq, funext_iff, Subtype.forall,
    Storage.mem_window] at hxy
  ext j z j' <;> grind [hx.pos_le, hx.cell_le, hy.pos_le, hy.cell_le]
```

File: Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean [hunk 3]
```diff
@@ -0,0 +1,382 @@
...
+      ≤ storageBound Symbol State k s := by
+  calc {x : UnboundedStorage Symbol State k | x.FitsIn w}.encard
+      = ((Storage.toBounded · w) '' {x | x.FitsIn w}).encard :=
+        ((Storage.toBounded_injOn w).encard_image).symm
+    _ ≤ (Set.univ : Set (BoundedStorage Symbol State w)).encard :=
+        Set.encard_le_encard (Set.subset_univ _)
+    _ = Fintype.card (BoundedStorage Symbol State w) := by
+        simp [Set.encard_univ, ENat.card_eq_coe_fintype_card]
+    _ ≤ storageBound Symbol State k s := by
+        exact_mod_cast card_boundedStorage_le hsum
```
Comment (barni120400) [inline Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean]:
```suggestion
  rw [← (Storage.toBounded_injOn w).encard_image]
  refine Set.encard_le_card.trans ?_
  rw [ENat.card_eq_coe_fintype_card]
  exact_mod_cast card_boundedStorage_le hsum
```

File: Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean [hunk 4]
```diff
@@ -0,0 +1,382 @@
...
+  -- (which is in `storageBoundBase`) and the part `(2 * syms + k) * s` linear in `s`.
+  have hB2 : syms ≤ 2 ^ syms := Nat.lt_two_pow_self.le
+  have h2s1 : 2 * s + 1 ≤ 2 ^ (s + 1) := by grind [pow_succ, Nat.lt_two_pow_self]
+  calc storageBound Symbol State k s
+      = states * ((2 * s + 1) ^ k * syms ^ (2 * s + k)) := rfl
+    _ ≤ states * ((2 ^ (s + 1)) ^ k * (2 ^ syms) ^ (2 * s + k)) := by
+        gcongr <;> exact Nat.zero_le _
+    _ = states * 2 ^ ((s + 1) * k + syms * (2 * s + k)) := by ring
+    _ = states * 2 ^ ((syms * k + k) + (2 * syms + k) * s) := by ring_nf
+    _ = states * 2 ^ (syms * k + k) * 2 ^ ((2 * syms + k) * s) := by ring
```
Comment (barni120400) [inline Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean]:
```suggestion
  set syms := Fintype.card Symbol + 1
  set states := Fintype.card State + 1
  -- The strategy is to bound each factor of `storageBound` by a power of `2`, using
  -- `syms ≤ 2 ^ syms` and `2 * s + 1 ≤ 2 ^ (s + 1)`. Collecting the exponents then yields
  -- `(s + 1) * k + syms * (2 * s + k)`, which splits into the constant part `syms * k + k`
  -- (which is in `storageBoundBase`) and the part `(2 * syms + k) * s` linear in `s`.
  have hB2 : syms ≤ 2 ^ syms := Nat.lt_two_pow_self.le
  have h2s1 : 2 * s + 1 ≤ 2 ^ (s + 1) := by grind [pow_succ, Nat.lt_two_pow_self]
  calc storageBound Symbol State k s
      = states * ((2 * s + 1) ^ k * syms ^ (2 * s + k)) := rfl
    _ ≤ states * ((2 ^ (s + 1)) ^ k * (2 ^ syms) ^ (2 * s + k)) := by gcongr <;> omega
    _ = states * 2 ^ (syms * k + k) * 2 ^ ((2 * syms + k) * s) := by ring
```

File: Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean [hunk 5]
```diff
@@ -0,0 +1,382 @@
...
+/-- The storage reached after `t` steps fits in the windows given by the per-tape space usage up
+to step `t`. -/
+lemma storage_fitsIn (t : ℕ) :
+    (tm.runFrom (tm.initCfg input) t).storage.FitsIn (tm.spaceUsedByTape (tm.initCfg input) t) := by
+  refine ⟨?_, ?_⟩
+  · intro j
+    simpa [Cfg.storage] using tm.natAbs_le_spaceUsedByTape_of_mem_visited
+      (tm.mem_visitedByTapeHead_self (tm.initCfg input) t j)
+  · intro j
+    exact content_natAbs_le_spaceUsedByTape t
```
Comment (barni120400) [inline Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean]:
```suggestion
  refine ⟨fun j => ?_, fun j => content_natAbs_le_spaceUsedByTape t⟩
  simpa [Cfg.storage] using tm.natAbs_le_spaceUsedByTape_of_mem_visited
    (tm.mem_visitedByTapeHead_self (tm.initCfg input) t j)
```

File: Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean [hunk 6]
```diff
@@ -0,0 +1,382 @@
...
+at most `storageBound Symbol State k s` different storages during its whole run — independently of
+the length of the input and of how long it runs. -/
+theorem encard_storages_le [Fintype Symbol] [Fintype State] {s : ℕ}
+    (hs : ∀ t, tm.spaceUsed (tm.initCfg input) t ≤ s) :
+    (Set.range fun t => (tm.runFrom (tm.initCfg input) t).storage).encard
+      ≤ storageBound Symbol State k s := by
+  obtain ⟨T, hT⟩ := tm.exists_spaceUsedByTape_max (tm.initCfg input) hs
+  refine le_trans (Set.encard_le_encard ?_) (encard_fitsIn_le (hs T))
+  rintro _ ⟨t, rfl⟩
+  exact Storage.FitsIn_mono (fun i => hT t i) (tm.storage_fitsIn t)
```
Comment (barni120400) [inline Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean]:
```suggestion
  exact Set.range_subset_iff.2 fun t => Storage.FitsIn_mono (hT t) (tm.storage_fitsIn t)
```

File: Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean [hunk 7]
```diff
@@ -0,0 +1,382 @@
...
+theorem encard_cores_le [Fintype Symbol] [Fintype State] {s : ℕ}
+    (hs : ∀ t, tm.spaceUsed (tm.initCfg input) t ≤ s) :
+    (Set.range fun t => (tm.runFrom (tm.initCfg input) t).core).encard
+      ≤ (input.length + 2) * storageBound Symbol State k s := by
+  calc (Set.range fun t => (tm.runFrom (tm.initCfg input) t).core).encard
+      ≤ ((Set.univ : Set (Fin (input.length + 2)))
+          ×ˢ (Set.range fun t => (tm.runFrom (tm.initCfg input) t).storage)).encard := by
+        refine Set.encard_le_encard ?_
+        rintro _ ⟨t, rfl⟩
+        exact ⟨Set.mem_univ _, t, rfl⟩
```
Comment (barni120400) [inline Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean]:
```suggestion
        exact Set.encard_le_encard (Set.range_subset_iff.2 fun t => ⟨Set.mem_univ _, t, rfl⟩)
```

File: Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean [hunk 8]
```diff
@@ -0,0 +1,382 @@
...
+passes through is at most `2 ^ (O(s))`, with constants depending only on the machine. -/
+theorem encard_storages_le_pow [Finite Symbol] [Finite State] :
+    ∃ a c : ℕ, ∀ (input : List Symbol) (s : ℕ),
+      (∀ t, tm.spaceUsed (tm.initCfg input) t ≤ s) →
+      (Set.range fun t => (tm.runFrom (tm.initCfg input) t).storage).encard ≤ a * 2 ^ (c * s) := by
+  have : Fintype Symbol := Fintype.ofFinite Symbol
+  have : Fintype State := Fintype.ofFinite State
+  obtain ⟨a, c, hpow⟩ := storageBound_le_pow (Symbol := Symbol) (State := State) (k := k)
+  refine ⟨a, c, fun input s hs => (tm.encard_storages_le hs).trans ?_⟩
+  exact_mod_cast hpow s
```
Comment (barni120400) [inline Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean]:
```suggestion
  cases nonempty_fintype Symbol
  cases nonempty_fintype State
  obtain ⟨a, c, hpow⟩ := storageBound_le_pow (Symbol := Symbol) (State := State) (k := k)
  exact ⟨a, c, fun input s hs => (tm.encard_storages_le hs).trans (by exact_mod_cast hpow s)⟩
```

File: Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean [hunk 9]
```diff
@@ -0,0 +1,382 @@
...
+      (Set.range fun t => (tm.runFrom (tm.initCfg input) t).core).encard
+        ≤ (input.length + 2) * a * 2 ^ (c * s) := by
+  have : Fintype Symbol := Fintype.ofFinite Symbol
+  have : Fintype State := Fintype.ofFinite State
+  obtain ⟨a, c, hpow⟩ := storageBound_le_pow (Symbol := Symbol) (State := State) (k := k)
+  refine ⟨a, c, fun input s hs => (tm.encard_cores_le hs).trans ?_⟩
+  calc ((input.length + 2) * storageBound Symbol State k s : ℕ∞)
+      ≤ ((input.length + 2) * (a * 2 ^ (c * s)) : ℕ) := by
+        exact_mod_cast Nat.mul_le_mul_left _ (hpow s)
+    _ = (input.length + 2) * a * 2 ^ (c * s) := by push_cast; ring
```
Comment (barni120400) [inline Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean:352]:
```suggestion
  cases nonempty_fintype Symbol
  cases nonempty_fintype State
  obtain ⟨a, c, hpow⟩ := storageBound_le_pow (Symbol := Symbol) (State := State) (k := k)
  refine ⟨a, c, fun input s hs => (tm.encard_cores_le hs).trans ?_⟩
  rw [mul_assoc]
  gcongr
  exact_mod_cast hpow s
```

File: Cslib/Computability/Machines/Turing/MultiTape/TapeLemmas.lean [hunk 10]
```diff
@@ -147,4 +152,25 @@ lemma spaceUsed_mono (tm : MultiTapeTM k Symbol State) (cfg : Cfg k Symbol State
...
+  -- After `max t T` steps the total space usage is the same as after `T` steps, and since it is
+  -- tape-wise monotone, every single tape uses the same space as after `T` steps.
+  have hmono : ∀ j, tm.spaceUsedByTape cfg T j ≤ tm.spaceUsedByTape cfg (max t T) j :=
+    fun j => tm.spaceUsedByTape_mono cfg j (le_max_right t T)
+  have hsup : tm.spaceUsed cfg (max t T) ≤ tm.spaceUsed cfg T :=
+    (le_csSup hbdd ⟨max t T, rfl⟩).trans hT.ge
+  have hsum : ∑ j, tm.spaceUsedByTape cfg T j = ∑ j, tm.spaceUsedByTape cfg (max t T) j :=
+    le_antisymm (Finset.sum_le_sum fun j _ => hmono j) hsup
+  have heq := (Finset.sum_eq_sum_iff_of_le fun j _ => hmono j).mp hsum i (Finset.mem_univ i)
+  exact heq ▸ tm.spaceUsedByTape_mono cfg i (le_max_left t T)
```
Comment (barni120400) [inline Cslib/Computability/Machines/Turing/MultiTape/TapeLemmas.lean]:
```suggestion
  have hmono : ∀ j ∈ Finset.univ,
      tm.spaceUsedByTape cfg T j ≤ tm.spaceUsedByTape cfg (max t T) j :=
    fun j _ => tm.spaceUsedByTape_mono cfg j (le_max_right t T)
  have heq := (Finset.sum_eq_sum_iff_of_le hmono).mp
    (le_antisymm (Finset.sum_le_sum hmono) ((le_csSup hbdd ⟨max t T, rfl⟩).trans hT.ge))
  exact heq i (Finset.mem_univ i) ▸ tm.spaceUsedByTape_mono cfg i (le_max_left t T)
```

File: Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean (hunk 1 above)
Comment (crei) [reply Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean]: I mean this is shorter, but not sure it is better. I replaced `grind` by your explicit proofs, though, so one sees that nothing "fancy" is going on.

File: Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean [hunk 11]
```diff
@@ -0,0 +1,382 @@
...
+
+/-- A `Storage` using the tape index type `ℤ`. -/
+abbrev UnboundedStorage (Symbol State : Type*) (k : ℕ) := Storage Symbol State (fun _ : Fin k => ℤ)
+
+/-- The window `[-s, s]` of tape positions allotted to a tape that uses `s` cells. -/
+@[scoped grind =]
+def window (s : ℕ) : Finset ℤ := Finset.Icc (-(s : ℤ)) s
+
+@[scoped grind =]
+lemma Storage.mem_window {s : ℕ} {z : ℤ} : z ∈ window s ↔ z.natAbs ≤ s := by
```
Comment (barni120400) [inline Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean]: Why are lemmas about window in "Storage" namespace?

File: Cslib.lean [hunk 12]
```diff
@@ -45,6 +45,7 @@ public import Cslib.Computability.Languages.MyhillNerode
 public import Cslib.Computability.Languages.OmegaLanguage
 public import Cslib.Computability.Languages.OmegaRegularLanguage
 public import Cslib.Computability.Languages.RegularLanguage
+public import Cslib.Computability.Machines.Turing.MultiTape.ConfigBound
```
Comment (barni120400) [inline Cslib.lean]: Insert in alphabetical order of imports

File: Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean [hunk 13]
```diff
@@ -0,0 +1,382 @@
...
+Finally, `BoundedStorage` is introduced which uses `[-s, s]` as index type (with different `s`
+for each tape) and it is proven that there is an injective mapping from `UnboundedStorage`
+to `BoundedStorage` if the non-blank cells and head positions of the `UnboundedStorage` all lie
+inside the `[-s, s]` windows for all tapes.
+-/
+
+/-- The state and work-tape data of a machine, with the cells and head position of tape `i` indexed
+by an arbitrary type `ι i`. -/
+@[ext]
+structure Storage (Symbol State : Type*) {k : ℕ} (ι : Fin k → Type*) where
```
Comment (barni120400) [inline Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean]: I think that `(ι : Fin k → Type*)` is an overkill for what you want to achieve here.
It is instanciated twice, once at `ℤ` and once at the subtype `↥(window (w i))`.
Consider defining `Storage` over `ℤ` directly, and replacing `Storage.toBounded` with a `Storage.restrict` that lands straight in the product type:

```
structure Storage (Symbol State : Type*) (k : ℕ) where
  /-- the state of the TM (cf. `Cfg.state`) -/
  state : Option State
  /-- the contents of work tape `i` (cf. `Cfg.workTapes`) -/
  workTapes : Fin k → ℤ → Option Symbol
  /-- the position of the head on work tape `i` (cf. `Cfg.workTapePos`) -/
  workTapePos : Fin k → ℤ

/-- Restriction of a storage to the finite windows `w` (with heads outside their window
clamped to `0`). -/
def Storage.restrict (x : Storage Symbol State k) (w : Fin k → ℕ) :
    Option State × ((i : Fin k) → window (w i) → Option Symbol) × ((i : Fin k) → window (w i)) :=
  (x.state, fun j z => x.workTapes j z.1,
    fun j => if h : x.workTapePos j ∈ window (w j) then ⟨_, h⟩
      else ⟨0, Storage.mem_window.mpr (Nat.zero_le _)⟩)
```

It saves a lot of code

File: Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean [hunk 14]
```diff
@@ -0,0 +1,354 @@
...
+-/
+
+/-- This function maps a `Cfg` to `Storage`, forgetting the input head position and the
+write-only output tape. -/
+def Cfg.storage (c : Cfg k Symbol State input) : Storage Symbol State k :=
+  ⟨c.state, c.workTapes, c.workTapePos⟩
+
+/-- The part of a configuration that the machine can still read: the input head position together
+with the `Storage`, i.e. the configuration without the write-only output tape. -/
+def Cfg.core (c : Cfg k Symbol State input) :
```
Comment (barni120400) [inline Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean:259]: I don't how good the terms "Storage" and "Core". I don't see any standard name for specifically these stuff, so maybe just call them ore explicitely instead of assigning new terms?

File: Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean [hunk 15]
```diff
@@ -0,0 +1,354 @@
...
+area, but this is absorbed by the `O(s)` exponent in the final bound.
+
+The windows for a whole run are available because a machine that is space-bounded at every point in
+time attains its per-tape space usage at a single step (`MultiTapeTM.exists_spaceUsedByTape_max`).
+-/
+
+@[expose] public section
+
+open Cslib
+
```
Comment (barni120400) [inline Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean]:
```suggestion
```

File: Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean [hunk 16]
```diff
@@ -0,0 +1,354 @@
...
+def Storage.toBounded (x : Storage Symbol State k) (w : Fin k → ℕ) :
+    BoundedStorage Symbol State w :=
+  (x.state, fun j z => x.workTapes j z.1,
+    fun j => if h : x.workTapePos j ∈ window (w j) then ⟨x.workTapePos j, h⟩
+      else ⟨0, mem_window.mpr (Nat.zero_le _)⟩)
+
+/-- The restriction is injective on storages that fit in the windows. -/
+lemma Storage.toBounded_injOn (w : Fin k → ℕ) :
+    Set.InjOn (Storage.toBounded (Symbol := Symbol) (State := State) · w) {x | x.FitsIn w} := by
+  rintro x ⟨hxp, hxc⟩ y ⟨hyp, hyc⟩ hxy
```
Comment (barni120400) [inline Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean]:
```suggestion
  rintro x ⟨_, _⟩ y ⟨_, _⟩ hxy
```

File: Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean [hunk 17]
```diff
@@ -0,0 +1,354 @@
...
+/-- `storageBound` grows at most exponentially in the space `s`: there exist constants `a` and `c`
+(depending on the machine's alphabet, state set and tape count) with
+`storageBound Symbol State k s ≤ a * 2 ^ (c * s)` for all `s`. -/
+lemma storageBound_le_pow [Fintype Symbol] [Fintype State] :
+    ∃ a c : ℕ, ∀ s : ℕ, storageBound Symbol State k s ≤ a * 2 ^ (c * s) :=
+  ⟨_, _, storageBound_le_base_mul_pow⟩
+
+/-! ## The storage and the core of a configuration
+
+Now we relate `Cfg` and `Storage` by givin the projection.
```
Comment (barni120400) [inline Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean]:
```suggestion
Now we relate `Cfg` and `Storage` by giving the projection.
```

File: Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean (hunk 14 above)
Comment (crei) [reply Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean:259]: I think it's difficult for storage and I would say it's a good name because this is the part where the TM can store information. For `core` I kind of agree. What about `accessibleMemory`?

Comment (barni120400) [reply Cslib/Computability/Machines/Turing/MultiTape/ConfigBound.lean:259]: yeah sounds good

**Review by barni120400 — APPROVED** [review]
